US03935261
Crude 2-oxo-3-ethylheptyltriphenylphosphonium chloride (88 g.) was added to a solution of sodium carbonate (100 g.) in water (1 litre) and the mixture stirred vigorously for 24 hours. The mixture was then extracted with diethyl ether and the extracts dried over magnesium sulphate. The solvent was evaporated and the crude product (63.3 g.) recrystallised from petrol (b.p. 60°-80°C.) to give 2-ethylhexanoylmethylenetriphenylphosphorane, m.p. 105.5°-107.5°C. (Found: C, 80.2; H, 7.5. C27H31OP requires C, 80.5; H, 7.5%).

reactant | 2-oxo-3-ethylheptyltriphenylphosphonium chloride | 88 g | [Cl-].O=C(C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(CCCC)CC
reactant | sodium carbonate | 100 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | 1 litre | O | H2O
product | 2-ethylhexanoylmethylenetriphenylphosphorane | C(C)C(C(=O)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C27H31OP
